Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][O:4][C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[H:10].[H:1][C:2]#[C:3][O:4][C:5][O:6][C:7]([H:8])[H:9],4.511657083459999
[H:15].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][C:12]([H:13])([H:14])[H:15],-3.0821136426
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],3.9779617791800006
[C:6]([O:7][H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.36557126186
[H:1][C:2][O:3][C:4]([O:5][C:6][H:7])=[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][C:2][O:3][C:4][O:5][C:6][H:7],7.40486921847
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],2.3497630938900005
[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[H:10].[H:1][C:2]([H:3])=[C:4][O:5][C:6]=[C:7]([H:8])[H:9],2.80851148774
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])[H:6].[O:7]=[C:8]=[C:9]([H:10])[H:11],-0.858702344699
[H:13].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-3.0364435497000004
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:8]/[O:9][H:10].[H:7],2.6629424899200003
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[H:7],4.232030665919998
[H:1][C:2](=[O:3])[O:12][C:9]([C:4][C:5]([H:6])([H:7])[H:8])([H:10])[H:11]>>[H:1][C:2]1[O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12]1,-0.51124475502
[H:1][C:2]([C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14],2.22182512365
[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-1.78216937157
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:7],1.94086799152
[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][C:2],6.03997007856
[H:1][C:2]([H:3])[C@:4]([H:5])(/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[C:13]([H:14])([H:15])[H:16],-1.2870974616500002
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],4.5239345461100005
[C:3]#[C:4][H:5].[O:1]=[C:2][O:6][C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([C:3]#[C:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10],-5.46732748176
[C:7]([H:8])([H:9])([C:10]([H:11])[H:12])[H:16].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.34714012599
[H:1][O:2]/[C:3]=[C:4](\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([C:5]([H:6])([H:7])[H:8])([H:10])[H:11].[H:1][O:2][C:3]#[C:9][C:12]([H:13])([H:14])[H:15],1.72841504926
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[O:5][H:6],5.47841279638
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1].[O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],4.66923333072
[H:1][C:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[C:6]([H:7])=[C:8]([H:9])[O:10][H:11].[H:1][C:2]#[C:3][O:4][H:5],2.50401369678
[C:1]#[C:2][O:3][C:4]1[O:5][C:6]1([H:7])[H:8]>>[C:1]#[C:2][O:3][C:4][O:5][C:6]([H:7])[H:8],1.7496768426
[C:1]#[C:2][C:3](=[O:4])[O:5][H:6]>>[C:1]#[C:2][C:3][O:5][H:6].[O:4],5.76013162018
[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:14]([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-1.7785199190099998
